US07960412B2
3-(3,5-Dimethoxyphenyl)propan-1-ol
Synthesized from 3-(3,5-dimethoxyphenyl)acrylic acid ethyl ester according to an analogous synthetic method to Example 22, ethyl 3-(3,5-dimethoxyphenyl)propionate (38.4 g) was added dropwise to a solution of lithium aluminum hydride (12.3 g) in tetrahydrofuran (200 ml) on an ice bath, and the solution was stirred for 15 minutes at room temperature. To the reaction solution were sequentially added water (12 ml), an aqueous solution of 5N sodium hydroxide (12 ml) and water (28 ml), the suspension was filtered, and then the solvent was evaporated in vacuo. The residue was purified by silica gel column chromatography (hexane-ethyl acetate system) to provide the title compound (24.3 g).

reactant | 3-(3,5-dimethoxyphenyl)acrylic acid ethyl ester | C(C)OC(C=CC1=CC(=CC(=C1)OC)OC)=O | C13H16O4
reactant | ethyl 3-(3,5-dimethoxyphenyl)propionate | 38.4 g | COC=1C=C(C=C(C1)OC)CCC(=O)OCC | C13H18O4
reactant | lithium aluminum hydride | 12.3 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 12 ml | O | H2O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 3-(3,5-Dimethoxyphenyl)propan-1-ol | 24.3 g | COC=1C=C(C=C(C1)OC)CCCO | C11H16O3
